US03943122
If, in Example 10, the 4,6-dinitro-2-amino-phenol is replaced by 12.3 parts of 2-methoxy aniline and the 4-nitro aniline by 30.9 parts of 4-amino-4'-nitro-diphenylamine-2'-sulphonic acid, one obtains a dyestuff which dyes leathers from different tanning processes in shades which are much more yellow.

reactant | 4,6-dinitro-2-amino-phenol | [N+](=O)([O-])C1=CC(=C(C(=C1)[N+](=O)[O-])O)N | C6H5N3O5
reactant | 2-methoxy aniline | COC1=C(N)C=CC=C1 | C7H9NO
product | 4-nitro aniline | [N+](=O)([O-])C1=CC=C(N)C=C1 | C6H6N2O2
